US04381303
(a) 1-Methyl-4-nitro-1H-pyrazole-5-carboxylic acid
A quantity comprising 69.0 gm (0.547 mol) of 1-methyl-1H-pyrazole-5-carboxylic acid of m.p.: 227°-228° C. (R. Huttel and M. E. Schon, Liebigs Ann. Chem 625, 55 [1959]) was added in small portions to a mixture of 200 ml of concentrated sulfuric acid and 60 ml of 90% fuming nitric acid under stirring. The temperature of the mixture rose from 75° C. at the beginning to a maximum temperature of 95° C. After the exothermal reaction was finished, heating was continued for 30 minutes up to 95° C. The cold mixture was stirred into 300 gm of cracked ice, and the resulting ice-cold suspension was filtered off by suction filtration. The filtration residue was washed with water, and after recrystallization from ethyl acetate, 44.0 gm (47% of theory) of pale yellow crystals were obtained.

reactant | 1-methyl-1H-pyrazole-5-carboxylic acid | 0.547 mol, 69.0 gm | CN1N=CC=C1C(=O)O | C5H6N2O2
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 60 ml | [N+](=O)(O)[O-] | HNO3
product | 1-Methyl-4-nitro-1H-pyrazole-5-carboxylic acid | CN1N=CC(=C1C(=O)O)[N+](=O)[O-] | C5H5N3O4
